US06518423B1
N-(10-Methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)acetamide
1 ml of acetic anhydride was added to 5 ml of a solution of 350 mg of 8-aminomethyl-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine in dichloromethane and the resulting mixture was stirred at room temperature for 2 hours. After adding diethyl ether, the precipitate thus formed was taken up by filtration to thereby give 350 mg of the title compound as yellow crystals.

reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 8-aminomethyl-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine | 350 mg | NCC=1C=CC2=C(N(C3=C(S2)N=CC=N3)COC)C1 | C13H14N4OS
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(10-Methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)acetamide | 350 mg | COCN1C2=C(SC3=C1C=C(C=C3)CNC(C)=O)N=CC=N2 | C15H16N4O2S
